US08198311B2
To a solution of (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol (250 mg, 0.79 mmol) and (1-methoxybut-1-enyloxy)trimethylsilane (32 mmol) which was prepared using General Silyl Ketene Acetal Method A in 10 mL of dry DCM was added TiCl4 (0.8 mL of 1.0 M DCM solution, 0.8 mmol) and then stirred 1 h. The reaction was quenched with MeOH, poured into aqueous sodium bicarbonate and extracted 2× EtOAc. The organic layers were dried over MgSO4, filtered, concentrated and purified on SiO2 by MPLC using a EtOAc/hexane gradient to give 200 mg (63% yield) of methyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)butanoate. MS found: (M+H)+=403.

reactant | (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol | 0.79 mmol, 250 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(O)C1=CC=CC=C1 | C20H15FN2O
reactant | (1-methoxybut-1-enyloxy)trimethylsilane | 32 mmol | COC(=CCC)O[Si](C)(C)C | C8H18O2Si
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.8 mmol, 1.0 M, 0.8 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)butanoate | 200 mg, 63% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)CC)C1=CC=CC=C1 | C25H23FN2O2
